US07592373B2
3.6.b. [(E)-3-(4′-chlorobiphenyl-4-yl)acrylic Acid
6.27 mL of a 1M sodium hydroxide solution is added to a solution of 0.9 g (3.13 mmol) of ethyl (E)-3-(4′-chlorobiphenyl-4-yl)acrylate in 30 mL of ethanol and stirred for 3 hours at ambient temperature. The reaction is stopped by the addition of 6.27 mL of 1N hydrochloric acid and the reaction mixture is stirred for 2 hours. Then the mixture is evaporated down, the residue is combined with water, and the precipitate is filtered off. The precipitate is repeatedly rinsed with water and dried at 80° C. in the vacuum drying chamber. Yield: 0.68 g (67% of theory); C15H11ClO2 (M=258.70); calc.: molecular ion peak (M−H)−: 257/259; found: molecular ion peak (M−H)−: 257/259; Rf value: 0.5 (silica gel, dichloromethane/methanol (90:10)).

reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | ethyl (E)-3-(4′-chlorobiphenyl-4-yl)acrylate | 3.13 mmol, 0.9 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)/C=C/C(=O)OCC | C17H15ClO2
reactant | hydrochloric acid | 1N, 6.27 mL | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | (E)-3-(4′-chlorobiphenyl-4-yl)acrylic Acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)/C=C/C(=O)O | C15H11ClO2
